US04781751
5,5-Dimethyl-4-fluoro-1,3-cyclohexanedione [0.5 grams (g), 0.0032 mole, prepared according to the teaching of Liebigs Ann. Chem., 679, 9 (1964)] and 0.25 g (0.0032 mole) pyridine were dissolved in 20 milliliters (ml) methylene chloride at room temperature. 2-Nitro-4-trifluoromethylbenzoyl chloride (1.0 g, 0.0039 mole) dissolved in 20 ml methylene chloride was slowly added with cooling. The reaction mixture was stirred at room temperature for 24 hours and then washed two times with water, one time with saturated sodium bicarbonate aqueous solution and one with with water. The aqueous phases were discarded and the organic phase dried with MgSO4 and then evaporated to yield the intermediate enol ester, 5,5-dimethyl-6-fluoro-3-(2-nitro-4-trifluoromethylbenzoyloxy)cyclohex-2-enone. The 5,5-dimethyl-6-fluoro-3-(2-nitro-4-trifluoromethylbenzoyloxy)cyclohex-2-enone was dissolved in 30 ml acetonitrile and triethylamine (0.7 g, 0.007 mole) which was added all at once, followed by acetonecyanohydrin (0.05 g, 0.0006 mole). The solution was stirred for 24 hours. The solvent was evaporated and the residue washed with diethyl ether to yield the product.

reactant | 5,5-Dimethyl-4-fluoro-1,3-cyclohexanedione | CC1(C(C(CC(C1)=O)=O)F)C | C8H11FO2
reactant | pyridine | 0.0032 mole, 0.25 g | N1=CC=CC=C1 | C5H5N
reactant | 2-Nitro-4-trifluoromethylbenzoyl chloride | 0.0039 mole, 1.0 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)C(F)(F)F | C8H3ClF3NO3
solvent | methylene chloride | 20 milliliters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5,5-dimethyl-6-fluoro-3-(2-nitro-4-trifluoromethylbenzoyloxy)cyclohex-2-enone | CC1(CC(=CC(C1F)=O)OC(C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-])=O)C | C16H13F4NO5
